US08207205B2
5-(3,5-Dibromo-4-hydroxyphenyl)-N-(3-(trifluoromethoxy)benzyl)-1,2,4-oxadiazole-3-carboxamide (compound 65)
Trimethylaluminum (0.11 mL of a 2 N solution in hexane, 0.22 mmol) was added to a stirred solution of 3-(trifluoromethoxy)benzyl amine (42 mg, 0.22 mmol) in anhydrous chloroform (2 mL) under nitrogen and the resulting solution was stirred at room temperature for 20 minutes. Ethyl 5-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-3-carboxylate (78 mg, 0.2 mmol) was then added in one portion and the reaction was stirred at 50° C. for 5 h before standing at room temperature overnight. Water (2 mL) was added followed by more chloroform (3 mL), the organic phase was separated and evaporated to dryness to give a yellow oil. This was purified by preparative HPLC to give the title compound (66 mg, 62%) as a colourless solid. 1H NMR δ (ppm) (DMSO-d6): 4.58 (2H, d, J=6.20 Hz), 7.31 (1H, d, J=8.20 Hz), 7.39-7.47 (2H, m), 7.53 (1H, t, J=7.91 Hz), 8.20 (2H, s), 10.07 (1H, t, J=6.24 Hz). LCMS (10 cm_apci_formic) tR 4.14 min; m/z 534/536/538 [M−H]−.

reactant | Trimethylaluminum | C[Al](C)C
reactant | 3-(trifluoromethoxy)benzyl amine | 0.22 mmol, 42 mg | FC(OC=1C=C(CN)C=CC1)(F)F | C8H8F3NO
reactant | Ethyl 5-(3,5-dibromo-4-hydroxyphenyl)-1,2,4-oxadiazole-3-carboxylate | 0.2 mmol, 78 mg | BrC=1C=C(C=C(C1O)Br)C1=NC(=NO1)C(=O)OCC | C11H8Br2N2O4
reactant | Water | 2 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(3,5-Dibromo-4-hydroxyphenyl)-N-(3-(trifluoromethoxy)benzyl)-1,2,4-oxadiazole-3-carboxamide | 66 mg, 62% | BrC=1C=C(C=C(C1O)Br)C1=NC(=NO1)C(=O)NCC1=CC(=CC=C1)OC(F)(F)F | C17H10Br2F3N3O4
